US05605910
C. 1-Amino-4-benzyl-4-azatricyclo[5.2.2.02,6 ]undec-8-ene
19.3 g (68.2 mmol) of 1-amino-4-benzyl-4-azatricyclo[5.2.2.02,6 ]undec-8-ene-3,5-dione are reduced with 8 g of LiAlH4 as described under Z 1-B and the mixture is worked up accordingly.

reactant | 1-amino-4-benzyl-4-azatricyclo[5.2.2.02,6 ]undec-8-ene-3,5-dione | 68.2 mmol, 19.3 g | NC12C3C(N(C(C3C(C=C1)CC2)=O)CC2=CC=CC=C2)=O | C17H18N2O2
reactant | LiAlH4 | 8 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | 1-Amino-4-benzyl-4-azatricyclo[5.2.2.02,6 ]undec-8-ene | NC12C3CN(CC3C(C=C1)CC2)CC2=CC=CC=C2 | C17H22N2
